US04413006
6.75 g of 1-(2-ethoxycarbonylethyl)-4-phenylpiperazine are dissolved in 100 ml of anhydrous tetrahydrofuran, and the solution is added dropwise at a temperature below 5° C. to a suspension of 1.96 g of lithium aluminum hydride in 200 ml of anhydrous tetrahydrofuran. The mixture is stirred at the same temperature for 2 hours. After decomposing an excess of lithium aluminum hydride, insoluble materials are removed by filtration. The filtrate is concentrated under reduced pressure to dryness, and the residue is recrystallized from isopropyl ether. 5.34 g of 1-(3-hydroxy-n-propyl)-4-phenyl-piperazine are thereby obtained as colorless granules. Yield: 94%

reactant | 1-(2-ethoxycarbonylethyl)-4-phenylpiperazine | 6.75 g | C(C)OC(=O)CCN1CCN(CC1)C1=CC=CC=C1 | C15H22N2O2
reactant | lithium aluminum hydride | 1.96 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-(3-hydroxy-n-propyl)-4-phenyl-piperazine | 5.34 g, Yield: 94% | OCCCN1CCN(CC1)C1=CC=CC=C1 | C13H20N2O
